US05109131
To tert-butyl alcohol [79 g (1.07 mol.)] heated at 80° to 85° C. was added, while stirring, anhydrous sodium acetate [0.4 g (4.8 mmol.)]. To the mixture was then added dropwise diketene [96 g (1.14 mol.)] in the course of 2.5 hours. During the initial 15 minutes, the addition was carried out at 60° to 70° C., then while heating up to 110° to 115° C. After the dropwise addition of diketene, the resulting blackish brown reaction mixture was stirred for further 30 minutes, immediately followed by distillation under reduced pressure to afford tert-butyl 3-oxobutyrate, b.p. 85° C./20mmHg. The yield was 135 g (80%).

reactant | tert-butyl alcohol | 1.07 mol, 79 g | C(C)(C)(C)O | C4H10O
reactant | sodium acetate | 4.8 mmol, 0.4 g | C(C)(=O)[O-].[Na+]
reactant | diketene | 1.14 mol, 96 g | C=C1CC(=O)O1 | C4H4O2
product | tert-butyl 3-oxobutyrate | O=C(CC(=O)OC(C)(C)C)C | C8H14O3
